datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:24])([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0]([C:1](=[C:2]([H:12])[H:13])[H:11])([H:9])([H:10])[H:16].[C:3](=[C:4]([C:5]([C:6]([C:7]([C:8]([H:24])([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:17])([H:14])[H:15],224.898368
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])=[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[H:12])([H:10])[H:11].[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[H:28])([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[C:23]([C:22]([H:25])([H:26])[H:27])([C:24]([H:29])([H:30])[H:31])[H:28])[H:12])([H:10])[H:11],8.32616
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2](=[C:3][C:4]#[C:5][H:7])[C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12])[H:6],47.0282
[N:0]([N:1]([N:2]([N:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5]>>[N-:1]=[N+:2]([N:3]([H:8])[H:9])[H:7].[N:0]([H:4])([H:5])[H:6],173.6
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17](=[C:18]([C:19]([C:20]([H:26])([H:27])[H:28])[C:21](=[C:22]([H:30])[H:31])[H:29])[H:25])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[C:19]([C:18](=[C:17]([H:23])[H:24])[H:25])([C:20]([H:26])([H:27])[H:28])[C:21](=[C:22]([H:30])[H:31])[H:29])[H:7],64.2244
[C:0]([C:1]([N+:2](=[O:3])[O-:4])([H:8])[H:9])([H:5])([H:6])[H:7].[O:10][H:11]>>[C:0]([C:1]([N+:2](=[O:3])[O-:4])[H:9])([H:5])([H:6])[H:7].[H:8][O:10][H:11],0.0
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16](=[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:9])[C:18]([C:17](=[C:16]([H:21])[H:22])[H:23])([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:8],29.8738
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10]([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2](=[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[C:10]([H:11])([H:12])[H:13])[H:6],23.0538
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([C:8]([C:9]([C:10](=[C:11]([H:21])[H:22])[H:20])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[C:6]([C:7]([C:8]([C:9]([C:10](=[C:11]([H:21])[H:22])[H:20])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13],30.5432
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0]([H:2])([H:3])[H:4].[S:1]([H:5])[C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10],94.14
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])([H:17])[H:18])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:17])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[H:18])[H:16])([H:14])[H:15],36.8192
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([O:7][O:8][H:19])[H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]([O:7][O:8][H:19])([H:15])[C:4]([H:16])([H:17])[O:5]1.[O:6][H:18],47.2792
[C:0]([C:1]([O:2][O:3])([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[O:7][O:8][H:19])[H:12])([H:10])[H:11].[O:2][O:3][H:9],124.6832
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:29]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:14][O:29],7.397312
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])[H:15])([H:13])[H:14])([O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]1([H:15])[C:4]([H:16])([H:17])[O:5]1)([H:13])[H:14])([O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11].[O:6][H:18],45.6056
[C:0](=[N+:1][O-:2])([H:3])[H:4].[C:5]([H:6])([H:7])[H:8]>>[C:0](#[N+:1][O-:2])[H:4].[H:3][C:5]([H:6])([H:7])[H:8],-4.64424
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12](#[C:13][C:14]([C:15]([H:18])([H:19])[H:20])[H:17])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:7])[C:14]([C:13]#[C:12][H:16])([C:15]([H:18])([H:19])[H:20])[H:17])[H:6],27.7818
